US07342118B2
3-(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-propionylamino}-imidazol-1-yl)-3-methyl-butyric acid methyl ester
3-[4-(2-Amino-propionylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester was coupled with (3,5-Difluoro-phenyl)-acetic acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 19.6, 28.1, 28.2, 3.0, 46.9, 49.1, 51.9, 56.4, 102.5, 102.8, 103.0, 105.1, 112.3, 112.5, 112.6, 131.0, 137.9, 138.7, 164.3, 169.1, 170.0; MS 423.2 m/z (M+1).

reactant | 3-[4-(2-Amino-propionylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(C)N)=O)=O | C12H20N4O3
reactant | (3,5-Difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 3-(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-propionylamino}-imidazol-1-yl)-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(C)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C20H24F2N4O4
